US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol
To a stirred solution of 5-[3-fluoro-2′-methoxy-4′-(trifluoromethyl)biphenyl-4-yl]pyrazin-2-amine (370 mg, 1.02 mmol) in dry dichloromethane (9.8 mL) at −78° Celsius, was added a boron tribromide in dichloromethane (3.1 mL, 1 M). The flask was slowly warmed to rt and stirred overnight. The reaction was poured into sat. NH4Cl and the pH adjusted to 8 with saturated NaHCO3. The resultant mixture was extracted with DCM (3×30 mL) and the combined extracts dried over Na2SO4, filtered and concentrated to dryness. The crude product was purified by HPLC to give the title compound. MS (ESI): mass calcd. for C17H11F4N3O, 349.08; m/z found, 350.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.41-8.35 (m, 1H), 8.17-8.10 (d, J=1.5, 1H), 7.99-7.88 (m, 1H), 7.56-7.46 (m, 3H), 7.22-7.19 (m, 1H), 7.19-7.17 (d, J=1.7, 1H).

reactant | 5-[3-fluoro-2′-methoxy-4′-(trifluoromethyl)biphenyl-4-yl]pyrazin-2-amine | 1.02 mmol, 370 mg | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=C(C=C1)C(F)(F)F)OC | C18H13F4N3O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | NH4Cl | [NH4+].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 9.8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 M, 3.1 mL | ClCCl | CH2Cl2
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)O)F | C17H11F4N3O
